US05073556
1.76 g (0.044 moles) of a 60% w/w suspension of sodium hydride in mineral oil was added in small portions, whilst stirring and ice-cooling, to a solution of 8.83 g (0.04 moles) of ethyl 2,4,5-trifluoro-3-hydroxybenzoate [(XXIV), X=X'=F, R16 =C2H5O] [prepared as described in step (a) above] in 40 ml of dimethylformamide and, after the addition was complete, the mixture was stirred, whilst ice-cooling, for an additional 30 minutes. At the end of this time, the reaction mixture was transferred into a 200 ml stainless steel autoclave, and then 100 ml of dimethylformamide containing 28.0 g (0.32 moles) of chlorodifluoromethane were added thereto, and the mixture was stirred under pressure at 95°-100° C. for 5 hours. At the end of this time, the dimethylformamide was removed by distillation under reduced pressure, and water was added to the residue, which was extracted with toluene. The extract was washed with water and dried over anhydrous sodium sulfate, and then the solvent was removed by evaporation under reduced pressure. The residue was subjected to silica gel column chromatography, using toluene as the eluent, to give 4.85 g of ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoate as a colorless liquid.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 2,4,5-trifluoro-3-hydroxybenzoate | 0.04 moles, 8.83 g | FC1=C(C(=O)OCC)C=C(C(=C1O)F)F | C9H7F3O3
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.32 moles, 100 ml, 28.0 g | CN(C=O)C | C3H7NO
product | ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoate | 4.85 g | FC(OC=1C(=C(C(=O)OCC)C=C(C1F)F)F)F | C10H7F5O3
